US05326905
2. 4-(phenylsulfonyl)benzylphosphonic acid
A solution of 4.3 g (14 mmol) of 4-(phenylsulfonyl)benzyl bromide and 30 g (0.1 mole) of tris-trimethylsilylphosphite was heated at 120° C. for 18 hours. The excess tris-trimethylsilylphosphite was distilled off under reduced pressure. The residue was dissolved in 200 ml of 9:1 tetrahydrofuran/water and was allowed to stand at room temperature for 18 hours. The tetrahydrofuran was evaporated and the resulting solids were filtered and washed with water to give 1.4 g of product; m.p. 217-219° C.

reactant | 4-(phenylsulfonyl)benzyl bromide | 14 mmol, 4.3 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(CBr)C=C1 | C13H11BrO2S
reactant | tris-trimethylsilylphosphite | 0.1 mole, 30 g | C[Si](C)(C)OP(O[Si](C)(C)C)O[Si](C)(C)C | C9H27O3PSi3
product | 4-(phenylsulfonyl)benzylphosphonic acid | 1.4 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(CP(O)(O)=O)C=C1 | C13H13O5PS
